US05296591
To a solution of methyl p-aminobenzoate (0.4 g) in tetrahydrofuran (10 ml) was added trichloromethylchloroformate (0.31 g) and the mixture was allowed to stand overnight at room temperature. L-Valine benzyl ester (0.54 g) was added to the solution and the pH of the mixture was neutralized with triethylamine. After being stirred for 30 minutes at room temperature, the mixture was concentrated under reduced pressure and the residue was extracted with ethyl acetate (10 ml). The extract was washed with 1N-hydrochloric acid (10 ml) and aqueous sodium bicarbonate (10 ml) and concentrated to dryness to give 4-(methoxycarbonyl)phenylaminocarbonyl-L-valine benzyl ester (1.17 g).

reactant | methyl p-aminobenzoate | 0.4 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | trichloromethylchloroformate | 0.31 g | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | L-Valine benzyl ester | 0.54 g | C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O | C12H17NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(methoxycarbonyl)phenylaminocarbonyl-L-valine benzyl ester | 1.17 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)NC1=CC=CC=C1)C(C)CC(=O)OC)=O | C21H24N2O5
